US08431563B2
To a 100-mL round-bottomed flask was added methyl 2-methoxyisonicotinate (2.04 mL, 14.12 mmol, Aldrich, St. Louis, Mo.) and borane methyl sulfide complex (4.02 mL, 42.4 mmol, Aldrich, St. Louis, Mo.) in THF (30 mL). The reaction mixture was stirred at 70° C. for 18 h, cooled to 0° C. and quenched by the addition of MeOH (5 mL), followed by 1N NaOH (20 mL). The reaction mixture was extracted with EtOAc (2×50 mL), the organic extract was washed with saturated NaCl (20 mL) and dried over Na2SO4. The solution was filtered and concentrated in vacuo to give the crude material as a light-yellow oil. The crude product was purified by silica gel chromatography, eluting with 60% EtOAc/hexanes to give (2-methoxy-4-pyridinyl)methanol (1.56 g) as colorless oil.

reactant | methyl 2-methoxyisonicotinate | 14.12 mmol, 2.04 mL | COC=1C=C(C(=O)OC)C=CN1 | C8H9NO3
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | (2-methoxy-4-pyridinyl)methanol | 1.56 g | COC1=NC=CC(=C1)CO | C7H9NO2
